US04576949
A suspension of LiAlH4 (2.81 g) in THF (250 ml) is treated with 5,6,7,8-tetrahydro-2-methyl-8-(phenylmethylene)-3-quinolinecarboxylic acid ethyl ester (7.43 g) and reacted for 25 minutes. Excess reagent is quenched, the mixture is diluted with ethyl acetate and filtered. The filtrate is washed, dried and evaporated to yield crude 5,6,7,8-tetrahydro-2-methyl-8-(phenylmethylene)-3-quinolinemethanol (7.3 g). Crystallization from aqueous ethanol gives 5.10 g of pure 5,6,7,8-tetrahydro-2-methyl-8-(phenylmethylene)-3-quinolinemethanol (m.p. 102° C.-103° C.) as two crops.

reactant | LiAlH4 | 2.81 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 5,6,7,8-tetrahydro-2-methyl-8-(phenylmethylene)-3-quinolinecarboxylic acid ethyl ester | 7.43 g | C(C)OC(=O)C=1C(=NC=2C(CCCC2C1)=CC1=CC=CC=C1)C | C20H21NO2
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | 5,6,7,8-tetrahydro-2-methyl-8-(phenylmethylene)-3-quinolinemethanol | 5.10 g | CC1=NC=2C(CCCC2C=C1CO)=CC1=CC=CC=C1 | C18H19NO
